US08536160B2
To a stirred suspension of 7α-formylandrostane-3,17-dione (1.77 g) in t-ButOH (35 mL) and 5% aqueous Na2HPO4 solution (21.5 mL), 1N aqueous KMnO4 (35 mL) was added. After 5 minutes at room temperature, the mixture was quenched by addition of 40% aqueous NaHSO3 solution. The suspension was filtered, washed with H2O and the filtrate was freeze-dried. The residue was taken up with H2O (50 mL) and extracted with EtOAc (4×70 mL). The combined organic extracts were dried over Na2SO4 and evaporated to dryness to give 7α-carboxyandrostane-3,17-dione (1.80 g, 96%). 1H-NMR (300 MHz, acetone-d6, ppm from TMS): δ 12.00 (1H, bb), 2.65 (1H, m), 2.45-0.70 (20H, m), 1.00 (3H, s), 0.79 (3H, s).

reactant | 7α-formylandrostane-3,17-dione | 1.77 g | C(=O)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H28O3
reactant | KMnO4 | 1N, 35 mL | [O-][Mn](=O)(=O)=O.[K+]
product | 7α-carboxyandrostane-3,17-dione | 1.80 g, 96% | C(=O)(O)[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(CC2C1)=O)C)=O | C20H28O4
